US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine (Compound 150)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(3-methoxyphenyl)piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 3.27 (s, 4H), 3.75 (s, 4H), 3.79 (s, 3H), 3.89 (s, 3H), 4.12 (s, 3H), 6.44-6.57 (m, 3H), 7.14-7.22 (m, 4H), 7.72-7.75 (m, 1H).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-(3-methoxyphenyl)piperazine | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine | 90% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC=C1)OC | C22H25N5O4
